US05268378
To a solution of thiophene-3-acetic acid (1.4 g, 10 mmol) in dichloromethane (40 ml) was added oxalyl chloride (1.74 ml, 20 mmol) and dimethylformamide (catalytic, 3 drops) and the reaction stirred for 1 h. The solvent was evaporated and the residue co-evaporated with toluene (3×20 ml). The resulting acid chloride was dissolved in 1,2-dichloroethane (40 ml), methyl 2-amino-4-chlorobenzoate (1.5 g, 8 mmol) added and the reaction refluxed for 2 h. The residue remaining on evaporation of the solvent was triturated with diethyl ether to afford methyl 4-chloro-2-(3-thienyl)acetamidobenzoate as a tan solid (1 g), m.p. 96°-97° C. To a solution of the foregoing amide (0.5 g, 1.6 mmol) in tetrahydrofuran (25 ml) was added a solution of potassium hexamethyldisilazide in toluene (0.5M, 4 mmol) and the reaction stirred for 2 h. Methanol (5 ml) was added and the solvent evaporated. The residue was partitioned between aqueous sodium hydroxide (1M, 20 ml) and diethyl ether (20 ml), and the aqueous layer acidified with hydrochloric acid (5M). The resultant precipitate was collected and recrystallised from dimethylformamide/water to afford the title compound as a white solid; m.p. 341°-344° C. (from DMF/H2O) (Found: C, 55.07; H, 2.86; Cl, 12.94; N, 5.16; S, 11.42; C13H8ClNO2S, 0.5 H2O requires C, 55.32; H, 3.03, Cl, 12.56; N, 4.96; S, 11.36%); δ(DMSO-d6) 7.22 (1H, dd, J=8.6 and 2 Hz, 6-H), 7.31 (1H, s, 8-H), 7.43 (1H, d, J=4.9 Hz, 5'-H), 7.49-7.51 (1H, m, 4'-H), 7.76 (1H, s, 2'-H), 7.98 (1H, d, J=8.6 Hz, 5-H), 11.55 (1H, s, NH); m/z 277 (M+).

reactant | thiophene-3-acetic acid | 10 mmol, 1.4 g | S1C=C(C=C1)CC(=O)O | C6H6O2S
reactant | oxalyl chloride | 20 mmol, 1.74 ml | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | methyl 2-amino-4-chlorobenzoate | 8 mmol, 1.5 g | NC1=C(C(=O)OC)C=CC(=C1)Cl | C8H8ClNO2
solvent | dichloromethane | 40 ml | ClCCl | CH2Cl2
catalyst | dimethylformamide | 3 drops | CN(C=O)C | C3H7NO
product | methyl 4-chloro-2-(3-thienyl)acetamidobenzoate | 1 g | ClC1=CC(=C(C(=O)OC)C=C1)NC(CC1=CSC=C1)=O | C14H12ClNO3S
